.SUBCKT CASE2 INM INP OUTM OUTP VBN1 VDD VREF VSS
M112 net1 VCMFB1 VSS VSS nfet l=0.2u w=2u m=1
M60 net057 net056 net058 VSS nfet l=0.2u w=12.0u m=6
M113 VCMFB3 VREF net058 VSS nfet l=0.2u w=12.0u m=6
M24 VBN1 VBN1 VBN VSS nfet l=1u w=30u m=4
M107 VOM2 VCMFB2 VSS VSS nfet l=0.2u w=8u m=4 
M106 OUTM VOP2 VSS VSS nfet l=0.2u w=24u m=12 
M108 OUTP VOM2 VSS VSS nfet l=0.2u w=24u m=12 
M104 VOP2 VCMFB2 VSS VSS nfet l=0.2u w=8u m=4
M3 VOM1 VBN1 VSHM1 VSS nfet l=0.2u w=20u m=10 
M110 VOP1 VBN1 VSHP1 VSS nfet l=0.2u w=20u m=10 
M63 net057 net057 VDD VDD pfet l=0.2u w=8u m=4 
M115 VOM2 VOP1 net062 VDD pfet l=0.8u w=48.0u m=6 
M109 OUTP VBP VDD VDD pfet l=0.8u w=25.6u m=4 
M98 OUTM VCMFB3 VDD VDD pfet l=0.8u w=51.2u m=8 
M119 VCMFB3 net057 VDD VDD pfet l=0.2u w=8u m=4
M26 VBP1 VBP1 VDD VDD pfet l=1u w=30u m=4 
M90 VBP VBP VDD VDD pfet l=0.8u w=25.6u m=4 
M111 OUTP VCMFB3 VDD VDD pfet l=0.8u w=51.2u m=8 
M14 OUTM VBP VDD VDD pfet l=0.8u w=25.6u m=4 
M116 net062 VBP VDD VDD pfet l=0.8u w=51.2u m=8 
M114 VOP2 VOM1 net062 VDD pfet l=0.8u w=48.0u m=6 
M117 net08 VBP VDD VDD pfet l=0.8u w=25.6u m=4 
M118 net07 VBP VDD VDD pfet l=0.8u w=25.6u m=4 
M103 VOP1 VBP1 net08 VDD pfet l=0.2u w=20u m=10 
M6 VOM1 VBP1 net07 VDD pfet l=0.2u w=20u m=10 
C4 VOP1 net031 mom_cap
C3 VOM1 net032 mom_cap
C2 VOP2 net037 mom_cap
C1 VOM2 net038 mom_cap
R11 VOM2 VCMFB2 VSS poly_res
R19 net038 net032 VSS poly_res
R21 OUTM net031 VSS poly_res
R13 VCMFB1 VOP1 VSS poly_res
R10 net056 OUTM VSS poly_res
R14 VOM1 VCMFB1 VSS poly_res
R15 OUTP net032 VSS poly_res
R0 OUTP net056 VSS  poly_res
R20 net037 net031 VSS poly_res
R12 VCMFB2 VOP2 VSS poly_res
M12 VSHM1 INP net1 VSS nfet_ud l=0.8u w=80u m=10 
M5 VSHP1 INM net1 VSS nfet_ud l=0.8u w=80u m=10 
M16 net058 VBN VSS VSS nfet_ud l=0.4u w=24.0u m=4 
M10 VBP1 VBN VSS VSS nfet_lvt l=0.4u w=12.0u m=4 
M9 VBN VBN VSS VSS nfet_lvt l=0.4u w=12.0u m=4 
M15 VBP VBN VSS VSS nfet_lvt l=0.4u w=12.0u m=4 
.ENDS
